US09304126B2
Dibenzo[b,f][1,4]thiazepin-11(10H)-one
To a solution of 2-((2-aminophenyl)thio)benzoic acid, prepared as described in the previous step, (30 g, 0.122 mol) in dichloromethane (300 mL) was added EDCI (35.2 g, 0.183 mol), triethylamine (51 mL, 0.366 mol) and HOBT (24.7 g, 0.183 mol). The reaction mixture was stirred at room temperature for 12 hours, washed with 1M aq.HCl, saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride, and dried over MgSO4. The solution was filtered, concentrated, and purified by column chromatography to provide the title compound. ESI-MS (M+1): 228 calc. for C13H9NOS 227. 1H NMR: (CDCl3, 400 MHz): δ (ppm) 7.70-7.67 (m, 1H), 7.58-7.52 (m, 2H), 7.50-7.42 (m, 2H), 7.39-7.35 (m, 1H), 7.24-7.22 (m, 1H), 7.17-7.13 (m, 1H).

reactant | 2-((2-aminophenyl)thio)benzoic acid | NC1=C(C=CC=C1)SC1=C(C(=O)O)C=CC=C1 | C13H11NO2S
reactant | EDCI | 0.183 mol, 35.2 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 0.366 mol, 51 mL | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.183 mol, 24.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | Dibenzo[b,f][1,4]thiazepin-11(10H)-one | C1=CC=CC2=C1C(NC1=C(S2)C=CC=C1)=O | C13H9NOS
